US07071340B2
3.14 mg (6.82 mmol) of 5% sodium amalgam are added portionwise at 0° C. to 389 mg (1.14 mmol) of 1-[3-methylene-5-(phenylsulfonyl)-2,3,4,5-tetrahydro-1-benzoxepin-7-yl]ethanone, prepared according to example 13, and 648 mg (4.55 mmol) of sodium hydrogenphosphate in suspension in 50 ml of a 1/1 methanol/tetrahydrofuran binary mixture. The reaction medium is subsequently stirred at ambient temperature for 4 hours. After addition of water and of dichloromethane and filtering off the mercury, the phases are separated and the aqueous phase is extracted three times with dichloromethane. The combined organic phases are washed with a slightly acidic aqueous solution and then with brine. Purification on silica gel (ethyl acetate/heptane 30/70) makes it possible to obtain 188 mg of 1-(3-methylene-2,3,4,5-tetrahydro-1-benzoxepin-7-yl)ethanol as a mixture with its pinacol dimer.

reactant | 1-[3-methylene-5-(phenylsulfonyl)-2,3,4,5-tetrahydro-1-benzoxepin-7-yl]ethanone | 1.14 mmol | C=C1COC2=C(C(C1)S(=O)(=O)C1=CC=CC=C1)C=C(C=C2)C(C)=O | C19H18O4S
reactant | sodium hydrogenphosphate | 4.55 mmol, 648 mg | P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | methanol tetrahydrofuran | CO.O1CCCC1
catalyst | sodium amalgam | 6.82 mmol, 3.14 mg | [Na].[Hg]
solvent | water | O | H2O
product | 1-(3-methylene-2,3,4,5-tetrahydro-1-benzoxepin-7-yl)ethanol | 188 mg | C=C1COC2=C(CC1)C=C(C=C2)C(C)O | C13H16O2
